US04223137
2 ml of cyclohexanecarboxylic acid and 2 ml of cyclohexanecarbonyl chloride were added to 1 g of 8-toluyloxy-5-(1-hydroxy-2-isopropylaminobutyl)carbostyril and the mixture was allowed to react for 1 hour at a temperature of 80° C. After completion of the reaction, 2 to 3 drops of concentrated hydrochloric acid and 10 ml of methanol were added to the reaction mixture while cooling with ice-water followed by addition of diethyl ether to crystallize the product. The crystals thus obtained were separated by filtration, washed with diethyl ether and recrystallized from a mixture of methanol and diethyl ether to obtain 1.3 g of 8-toluyloxy-5-(1-cyclohexylcarbonyloxy-2-isopropylaminobutyl)carbostyril hydrochloride having a melting point of 231°-232.5° C.

reactant | cyclohexanecarboxylic acid | 2 ml | C1(CCCCC1)C(=O)O | C7H12O2
reactant | cyclohexanecarbonyl chloride | 2 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 8-toluyloxy-5-(1-hydroxy-2-isopropylaminobutyl)carbostyril | 1 g | C1(=C(C=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NC(C)C)O)C | C23H28N2O3
reactant | methanol | 10 ml | CO | CH4O
catalyst | hydrochloric acid | 2 to 3 drops | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 8-toluyloxy-5-(1-cyclohexylcarbonyloxy-2-isopropylaminobutyl)carbostyril hydrochloride | 1.3 g | Cl.C1(=C(C=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NC(C)C)OC(=O)C1CCCCC1)C | InChI=1S/C30H38N2O4.ClH/c1-5-24(31-19(2)3)29(36-30(34)21-12-7-6-8-13-21)23-15-17-26(28-22(23)16-18-27(33)32-28)35-25-14-10-9-11-20(25)4;/h9-11,14-19,21,24,29,31H,5-8,12-13H2,1-4H3,(H,32,33);1H
